### PR TITLE
Support for abstract vector spaces.

### PR DESCRIPTION
**Pull request by capn-freako**
This PR introduces `Algebra.Linear.VectorSpace`, an abstract vector space.

The purpose of this new type is to provide the familiar metaphor/interface of "vector/matrix" that people are used to using in their client code, without locking the back-end implementation into arrays (more generally, n-tuples).
In this way, we hope to decouple the _capture of design intent_ from _design implementation_, for architectures based on the concepts of linear algebra, such as machine learning networks.

### CODE REVIEW

**Comment by capn-freako** [comment]
Okay, Matthew, I just pushed after merging in upstream/master.

File: src/Data/Nat/Logarithm.agda [hunk 1]
```diff
@@ -8,7 +8,7 @@
 
 module Data.Nat.Logarithm where
 
-open import Data.Nat 
+open import Data.Nat
```
Comment (MatthewDaggitt) [inline src/Data/Nat/Logarithm.agda:11]: I know this annoying, but any chance you could submit these two whitespace changes in a separate PR that I'll merge in immediately?

File: src/Algebra/Module/Morphism/Properties.agda [hunk 2]
```diff
@@ -0,0 +1,125 @@
...
+open import Relation.Nullary          using (¬_)
+open import Relation.Nullary.Negation using (contraposition)
+
+module LinearMapProperties
+  {r ℓr m ℓm n ℓn : Level}
+  {ring           : CommutativeRing r ℓr}
+  {modA           : Module ring m ℓm}
+  {modB           : Module ring n ℓn}
+  (lm             : LinearMap modA modB)
+  where
```
Comment (MatthewDaggitt) [inline src/Algebra/Module/Morphism/Properties.agda:30]: This seems to be an old version of [Algebra.Module.Morphism.ModuleHomomorphism](https://github.com/agda/agda-stdlib/blob/master/src/Algebra/Module/Morphism/ModuleHomomorphism.agda)? Can we remove this file from the PR?

File: src/Data/VectorSpace/Core.agda [hunk 3]
```diff
@@ -0,0 +1,94 @@
...
+  field
+    _∙_           : V → V → S
+    basisSet      : List V
+    basisComplete : ∀ {a : V} →
+                    a ≈ᴹ vgen (a ∙_) basisSet
+
+    -- ToDo: Can these be unified, by using one of the
+    -- existing algebraic structures?
+    -- I'm only finding things that are predicated upon: `A → A → A`, or
+    -- `A → B`; nothing for: `A → A → B`.
```
Comment (MatthewDaggitt) [inline src/Data/VectorSpace/Core.agda:63]: See `Algebra.Module.Definitions`

File: src/Function/Consequences.agda [hunk 4]
```diff
@@ -54,3 +55,24 @@ module _
   contraInjective : Injective _≈₁_ _≈₂_ f →
                     ∀ {x y} → ¬ (x ≈₁ y) → ¬ (f x ≈₂ f y)
   contraInjective inj p = contraposition inj p
+
+∘-cong : ∀ {f} {g} {≈₁ : Rel A ℓ₁} {≈₂ : Rel B ℓ₂} →
+          Congruent ≈₁ ≈₁ f → Congruent ≈₁ ≈₂ g → Congruent ≈₁ ≈₂ (g ∘ f)
+∘-cong f-cong g-cong = g-cong ∘ f-cong
+-- ∘-cong = flip _∘_  -- Yields implicit/explicit function type error.
```
Comment (MatthewDaggitt) [inline src/Function/Consequences.agda:62]: That's because `_∘_` is the dependent version and therefore you can't flip it. If you use the primed version "∘\prime" then you should be able to flip it.

Comment (MatthewDaggitt) [reply src/Function/Consequences.agda:62]: This lemma already exists though, in `Function.Construct.Composition`, which is where the `∘-cong₂` should live as well if we keep it.

File: src/Function/Consequences.agda [hunk 5]
```diff
@@ -54,3 +55,24 @@ module _
...
+
+∘-cong₂ : ∀ {f} {g} {≈₁ : Rel A ℓ₁} {≈₂ : Rel B ℓ₂} →
+          Congruent ≈₁ ≈₁ f → Congruent₂ ≈₁ ≈₁ ≈₂ g → Congruent₂ ≈₁ ≈₁ ≈₂ (g ∘ f)
+∘-cong₂ f-cong g-cong₂ = g-cong₂ ∘ f-cong
+
+module _ (To : Setoid b ℓ₂) {≈₁ : Rel A ℓ₁} where
+
+  open Setoid To using () renaming (Carrier to B; _≈_ to ≈₂)
+
+  flip-cong₂ : ∀ {f} → Congruent₂ ≈₁ ≈₁ ≈₂ f → Congruent₂ ≈₁ ≈₁ ≈₂ (flip f)
```
Comment (MatthewDaggitt) [inline src/Function/Consequences.agda:72]: Likewise this should live in `Algebra.Construct.Symmetry`

File: src/Function/Definitions.agda [hunk 6]
```diff
@@ -28,6 +28,12 @@ open import Level using (_⊔_)
 Congruent : (A → B) → Set (a ⊔ ℓ₁ ⊔ ℓ₂)
 Congruent f = ∀ {x y} → x ≈₁ y →  f x ≈₂ f y
 
+Congruent₂′ : (A → B → A) → Set (a ⊔ b ⊔ ℓ₁ ⊔ ℓ₂)
+Congruent₂′ f = ∀ {x y w z} → x ≈₁ y → w ≈₂ z → f x w ≈₁ f y z
+module _ {c ℓ₃} {C : Set c} (_≈₃_ : Rel C ℓ₃) where
+  Congruent₂ : (A → B → C) → Set (a ⊔ b ⊔ ℓ₁ ⊔ ℓ₂ ⊔ ℓ₃)
+  Congruent₂ f = ∀ {x y w z} → x ≈₁ y → w ≈₂ z → f x w ≈₃ f y z
```
Comment (MatthewDaggitt) [inline src/Function/Definitions.agda:35]: These definitions probably already exist in the `Algebra.Module.Definitions.(Left/Right/Bi)` modules? If not, then they should be added there.

File: src/Data/VectorSpace/Core.agda [hunk 7]
```diff
@@ -0,0 +1,94 @@
...
+    B : Set b
+    C : Set c
+
+record VectorSpace
+  {r ℓr m ℓm : Level}
+  {ring      : CommutativeRing r ℓr}
+  (mod       : Module ring m ℓm)
+  : Set (suc (ℓr ⊔ r ⊔ ℓm ⊔ m)) where
+
+  constructor mkVS
```
Comment (MatthewDaggitt) [inline src/Data/VectorSpace/Core.agda:41]: I refuse to believe that this constructor with 15+ arguments is actually useful :laughing:

File: src/Data/VectorSpace/Core.agda [hunk 8]
```diff
@@ -0,0 +1,94 @@
...
+    ∙-distrib-+ : ∀ {a b c}   → a ∙ (b +ᴹ c)    ≈ (a ∙ b) + (a ∙ c)
+    ∙-comm-*ₗ   : ∀ {s} {a b} → a ∙ (s *ₗ b)    ≈ s * (a ∙ b)
+    ∙-comm-*ᵣ   : ∀ {s} {a b} → a ∙ (b *ᵣ s)    ≈ (a ∙ b) * s  -- Prove.
+    ∙-congˡ     : ∀ {a b c}   → b ≈ᴹ c → a ∙ b ≈ a ∙ c
+    ∙-congʳ     : ∀ {a b c}   → b ≈ᴹ c → b ∙ a ≈ c ∙ a        -- Prove.
+    ∙-idˡ       : ∀ {a}       → 0ᴹ ∙ a ≈ 0#
+    ∙-idʳ       : ∀ {a}       → a ∙ 0ᴹ ≈ 0#                    -- Prove.
+    ∙-homo-⁻¹    : ∀ {a b}     → a ∙ (-ᴹ b) ≈ - (a ∙ b)
+
+  vscale-cong : ∀ f → Congruent _≈ᴹ_ _≈_ f → Congruent _≈ᴹ_ _≈ᴹ_ (vscale f)
```
Comment (MatthewDaggitt) [inline src/Data/VectorSpace/Core.agda:74]: This proof shouldn't live in the definition of the record itself.

File: src/Data/VectorSpace/Core.agda [hunk 9]
```diff
@@ -0,0 +1,94 @@
...
+  V⊸S = LinearMap mod ⟨module⟩
+
+  -- Equivalent vector generator.
+  v : V⊸S → V
+  v lm = vgen (LinearMap.f lm) basisSet
+
+  open Setoid (≈ᴸ-setoid mod ⟨module⟩) using () renaming
+    ( _≈_ to _≈ᴸ_
+    ; _≉_ to _≉ᴸ_
+    ) public
```
Comment (MatthewDaggitt) [inline src/Data/VectorSpace/Core.agda:93]: `public` should go immediately before the `using`.

File: src/Data/VectorSpace/Core.agda [hunk 10]
```diff
@@ -0,0 +1,94 @@
...
+--
+-- Abstract vector spaces.
+--
+-- A "vector space" is a Module with a commutative, homomorphic inner
+-- product and a complete set of building blocks for mapping the space.
+------------------------------------------------------------------------
+
+{-# OPTIONS --without-K --safe #-}
+
+module Data.VectorSpace.Core where
```
Comment (MatthewDaggitt) [inline src/Data/VectorSpace/Core.agda:12]: This shouldn't live in `Data`. If I had to make a stab at it, a better place would be to create a new subfolder `Algebra.Linear` for linear algebra and place `VectorSpace` in `Algebra.Linear.Bundles`?

File: src/Relation/Binary/ExtensionalEquivalence.agda [hunk 11]
```diff
@@ -0,0 +1,37 @@
...
+-- Definition of extensional equivalence.
+------------------------------------------------------------------------
+
+{-# OPTIONS --without-K --safe #-}
+
+open import Level
+open import Relation.Binary.Bundles
+open import Relation.Binary.Definitions
+
+module Relation.Binary.ExtensionalEquivalence
```
Comment (MatthewDaggitt) [inline src/Relation/Binary/ExtensionalEquivalence.agda:13]: This should probably live in `Function.Relation.Binary.Equality` (a bit of a mouthful I know, there's discussions to improve the name).

We should also generalise it over setoid equality for both the input and the output of the function!

File: src/Relation/Binary/ExtensionalEquivalence.agda [hunk 12]
```diff
@@ -0,0 +1,37 @@
...
+    A : Set a
+
+open Setoid B-setoid renaming (Carrier to B)
+
+infix 4 _≗_
+
+_≗_ : ∀ {a} → {A : Set a} → (f g : A → B) → Set (ℓ ⊔ a)
+f ≗ g = ∀ x → f x ≈ g x
+
+≗-refl : ∀ {a} → {A : Set a} → Reflexive (_≗_ {A = A})
```
Comment (MatthewDaggitt) [inline src/Relation/Binary/ExtensionalEquivalence.agda:30]: You can avoid a set of brackets by writing `Reflexive {A = A} _≗_`

**Review by MatthewDaggitt — COMMENTED** [review]
Thanks for bringing it up to date. I've done an initial review, but be warned this another relatively big and complicated PR so it's going to take a few iterations!

File: src/Data/VectorSpace/Core.agda (hunk 10 above)
Comment (capn-freako) [reply src/Data/VectorSpace/Core.agda:12]: **==> Code moved, as requested, in next push.**

**Review by capn-freako — COMMENTED** [review]
Partial response, intended to facilitate further discussion, coming in next push.

File: src/Data/Nat/Logarithm.agda (hunk 1 above)
Comment (capn-freako) [reply src/Data/Nat/Logarithm.agda]: **==> Done.**

File: src/Relation/Binary/ExtensionalEquivalence.agda (hunk 11 above)
Comment (MatthewDaggitt) [reply src/Relation/Binary/ExtensionalEquivalence.agda:13]: Yes, sorry, should have made clearer that it would be a new module!

File: src/Relation/Binary/ExtensionalEquivalence.agda (hunk 12 above)
Comment (MatthewDaggitt) [reply src/Relation/Binary/ExtensionalEquivalence.agda:30]: Ah sorry, yes sorry, should be something like `Reflexive {A = A → B} _≗_`?

File: src/Data/VectorSpace/Core.agda (hunk 3 above)
Comment (MatthewDaggitt) [reply src/Data/VectorSpace/Core.agda]: Ah sorry, yes, the definitions I was thinking of are here:
https://github.com/agda/agda-stdlib/blob/d5ecb051ffb1965b2db45d09e330a13b3bf64471/src/Algebra/Module/Core.agda#L18-L22

But actually `A -> A -> B` is a bit weird as you're conjuring out an entirely new `B` from 2 `A`s. I'm not aware of any general name for such an operation, but you probably know the literature better than I do? I'd just call that a function... and hence not give it a name.

File: src/Data/VectorSpace/Core.agda (hunk 8 above)
Comment (MatthewDaggitt) [reply src/Data/VectorSpace/Core.agda]: No I didn't! I feel like maybe we should be extracting the concept of `IsBasis` out into its own record?

File: src/Algebra/Linear/Bundles.agda [hunk 13]
```diff
@@ -0,0 +1,95 @@
...
+    a b c : Level
+    A : Set a
+    B : Set b
+    C : Set c
+
+-- Abstract vector spaces.
+--
+-- A "vector space" is a Module with a commutative, homomorphic inner
+-- product and a complete set of building blocks for mapping the space.
+record VectorSpace
```
Comment (MatthewDaggitt) [inline src/Algebra/Linear/Bundles.agda:36]: Can we follow the standard pattern in `Algebra` and split this out into a `IsVectorSpace` structure in `Algebra.Linear.Structure` and `VectorSpace` bundle in `Algebra.Linear.Bundle`?

File: src/Algebra/Linear/Properties.agda [hunk 14]
```diff
@@ -0,0 +1,180 @@
...
+v∙g[x]+y-cong₂ {g} {v} {x} {w} {y} {z} g-cong x≈w y≈z = begin⟨ setoid ⟩
+  v ∙ g x + y ≈⟨ +-congʳ (∙-congˡ (g-cong x≈w)) ⟩
+  v ∙ g w + y ≈⟨ +-congˡ y≈z ⟩
+  v ∙ g w + z ∎
+
+foldr-cong : ∀ {f g : V → S → S} {d e : S} →
+             (∀ {y z} → y ≈ z → ∀ x → f x y ≈ g x z) → d ≈ e →
+             foldr f d ≗ foldr g e
+foldr-cong f≈g d≈e []       = d≈e
+foldr-cong f≈g d≈e (x ∷ xs) = f≈g (foldr-cong f≈g d≈e xs) x
```
Comment (MatthewDaggitt) [inline src/Algebra/Linear/Properties.agda:58]: I feel this should be a far more general proof in `Data.List.Properties`? (if it doesn't already exist!)

File: src/Data/VectorSpace/Core.agda (hunk 3 above)
Comment (capn-freako) [reply src/Data/VectorSpace/Core.agda]: Okay, thanks!

File: src/Relation/Binary/ExtensionalEquivalence.agda (hunk 11 above)
Comment (capn-freako) [reply src/Relation/Binary/ExtensionalEquivalence.agda:13]: Okay, I created that new module.

File: src/Relation/Binary/ExtensionalEquivalence.agda (hunk 12 above)
Comment (capn-freako) [reply src/Relation/Binary/ExtensionalEquivalence.agda:30]: Yep, that worked; thanks!

File: src/Algebra/Linear/Bundles.agda (hunk 13 above)
Comment (capn-freako) [reply src/Algebra/Linear/Bundles.agda:36]: Yep. Arriving w/ next push.

File: src/Algebra/Linear/Properties.agda (hunk 14 above)
Comment (capn-freako) [reply src/Algebra/Linear/Properties.agda:58]: Yeah, I get that. But, the one in `Data.List.Properties` uses _equality_, as opposed to _equivalence_, which I can't use here:

```agda
foldr-cong : ∀ {f g : A → B → B} {d e : B} →
             (∀ x y → f x y ≡ g x y) → d ≡ e →
             foldr f d ≗ foldr g e
```

That's why I had to write my own. :(

File: src/Data/VectorSpace/Core.agda (hunk 8 above)
Comment (capn-freako) [reply src/Data/VectorSpace/Core.agda]: Yeah, I think you're right.
Check out the new:

- `Algebra.Linear.Structures`,
- `Algebra.Linear.Bundles`, and
- `Algebra.Linear.Properties.VectorSpace`.

And let me know if that seems a little more consistent w/ the established conventions to you.

Thanks!
:)

File: src/Algebra/Linear/Properties.agda (hunk 14 above)
Comment (Taneb) [reply src/Algebra/Linear/Properties.agda]: Would `Data.List.Relation.Binary.Setoid.foldr⁺` be useful here?

Comment (capn-freako) [reply src/Algebra/Linear/Properties.agda]: > Would `Data.List.Relation.Binary.Setoid.foldr⁺` be useful here?

I don't think so, only because it applies to `Op2 A` while mine applies to `V -> S -> S`.

File: src/Algebra/Linear/Structures.agda [hunk 15]
```diff
@@ -0,0 +1,64 @@
...
+  {ring      : CommutativeRing r ℓr}
+  (mod       : Module ring m ℓm)
+  where
+
+  open CommutativeRing ring renaming (Carrier  to S)
+  open Module          mod  renaming (Carrierᴹ to V)
+
+  -- A set of "vectors" forms a basis for a space iff it is complete
+  -- under some inner product.
+  record IsBasis : Set (suc (ℓm ⊔ m ⊔ r)) where
```
[the remark this answers is not in the document]
Comment (MatthewDaggitt) [reply src/Algebra/Linear/Structures.agda:29]: Actually maybe a basis is a fundemental enough concept that it (and related proofs) should live in its own module `Algebra.Linear.Basis`?

File: src/Algebra/Linear/Properties/VectorSpace.agda [hunk 16]
```diff
@@ -0,0 +1,185 @@
...
+  ; from      = λ u  → mkLM (u ∙_) u∙-homo
+  ; to-cong   = vgen-cong basisSet
+  ; from-cong = λ z x → ∙-congʳ z
+  ; inverse   = (λ v → begin⟨ ≈ᴹ-setoid ⟩
+                     vgen (v ∙_) basisSet
+                       ≈⟨ Setoid.sym ≈ᴹ-setoid basisComplete ⟩
+                     v ∎ )
+                , λ lm x → begin⟨ setoid ⟩
+                      v lm ∙ x ≈⟨ sym (f≈v∙ lm) ⟩
+                      LinearMap.f lm x   ∎
```
Comment (MatthewDaggitt) [inline src/Algebra/Linear/Properties/VectorSpace.agda:184]: As a first step could you expand these inline proofs out into a `where` clause?

File: src/Algebra/Linear/Bundles.agda [hunk 17]
```diff
@@ -0,0 +1,52 @@
...
+
+  open IsBasis       isBasis       public
+  open IsVectorSpace isVectorSpace public
+
+  -- Linear maps from vectors to scalars.
+  V⊸S = LinearMap mod ⟨module⟩
+
+  -- Equivalent vector generator.
+  v : V⊸S → V
+  v lm = vgen (LinearMap.f lm) basisSet
```
Comment (MatthewDaggitt) [inline src/Algebra/Linear/Bundles.agda:46]: I have no idea what the comment means or what it is? "Equivalent" to what? Definitely needs a better name than just `v`!

File: CHANGELOG.md [hunk 18]
```diff
@@ -1851,7 +1871,6 @@ Other minor changes
   ∈-++-comm : ∀ {v} xs ys → v ∈ xs ++ ys → v ∈ ys ++ xs
   ∈-++-comm∘++-comm : ∀ {v} xs {ys} (p : v ∈ xs ++ ys) → ∈-++-comm ys xs (∈-++-comm xs ys p) ≡ p
   ∈-++↔++ : ∀ {v} xs ys → v ∈ xs ++ ys ↔ v ∈ ys ++ xs
-  ```
```
Comment (MatthewDaggitt) [inline CHANGELOG.md:1854]: Is there a reason you've deleted this line?

**Review by MatthewDaggitt — COMMENTED** [review]
Thanks, already looking much better! 

Next set of suggestions incoming :smile:

File: src/Function/Relation/Binary/Equality.agda [hunk 19]
```diff
@@ -0,0 +1,37 @@
...
+  variable
+    a : Level
+    A : Set a
+
+open Setoid B-setoid renaming (Carrier to B)
+
+infix 4 _≗_
+
+_≗_ : ∀ {a} → {A : Set a} → (f g : A → B) → Set (ℓ ⊔ a)
+f ≗ g = ∀ x → f x ≈ g x
```
[the remark this answers is not in the document]
Comment (capn-freako) [reply src/Function/Relation/Binary/Equality.agda:28]: I think that requires _congruence_, which isn't currently required.

File: src/Function/Relation/Binary/Equality.agda [hunk 20]
```diff
@@ -0,0 +1,37 @@
...
+
+{-# OPTIONS --without-K --safe #-}
+
+open import Level
+open import Relation.Binary.Bundles
+open import Relation.Binary.Definitions
+
+module Function.Relation.Binary.Equality
+  {b ℓ : Level}
+  (B-setoid : Setoid b ℓ)
```
[the remark this answers is not in the document]
Comment (capn-freako) [reply src/Function/Relation/Binary/Equality.agda:15]: Changed as requested in next push.

File: src/Function/Relation/Binary/Equality.agda (hunk 19 above)
[the remark this answers is not in the document]
Comment (capn-freako) [reply src/Function/Relation/Binary/Equality.agda:28]: I think that would require adding `Congruence`, which the current definition does _not_ require.  
(Is that correct?)

File: src/Algebra/Linear/Structures.agda (hunk 15 above)
[the remark this answers is not in the document]
Comment (capn-freako) [reply src/Algebra/Linear/Structures.agda:29]: It has only a couple proofs. (The rest are on `VectorSpace`.)
So, I went w/ your second suggestion.
It felt the most correct to me.

File: src/Algebra/Linear/Structures.agda [hunk 21]
```diff
@@ -0,0 +1,64 @@
...
+      _∙_           : V → V → S
+      basisSet      : List V                     -- ToDo: List => Foldable Functor
+      basisComplete : ∀ {a : V} →
+                      a ≈ᴹ vgen (a ∙_) basisSet
+
+
+  -- The space mapped (i.e. - represented) by a basis constitutes a
+  -- vector space iff the inner product has certain properties.
+  record IsVectorSpace
+    (isBasis : IsBasis)
```
[the remark this answers is not in the document]
Comment (capn-freako) [reply src/Algebra/Linear/Structures.agda:48]: Yep, you're right.
Changed, as requested, in next push.

File: src/Algebra/Linear/Structures.agda [hunk 22]
```diff
@@ -0,0 +1,64 @@
...
+-- The Agda standard library
+--
+-- Some linear algebraic structures.
+------------------------------------------------------------------------
+
+{-# OPTIONS --without-K --safe #-}
+
+module Algebra.Linear.Structures where
+
+open import Algebra                             using (CommutativeRing)
```
[the remark this answers is not in the document]
Comment (capn-freako) [reply src/Algebra/Linear/Structures.agda:11]: Fixed in next push.

File: src/Algebra/Linear/Structures.agda [hunk 23]
```diff
@@ -0,0 +1,64 @@
...
+
+  open CommutativeRing ring renaming (Carrier  to S)
+  open Module          mod  renaming (Carrierᴹ to V)
+
+  -- A set of "vectors" forms a basis for a space iff it is complete
+  -- under some inner product.
+  record IsBasis : Set (suc (ℓm ⊔ m ⊔ r)) where
+
+    vscale : (V → S) → V → V
+    vscale f = uncurry _*ₗ_ ∘ < f , id >
```
[the remark this answers is not in the document]
Comment (capn-freako) [reply src/Algebra/Linear/Structures.agda:32]: Added in next push.

File: src/Algebra/Linear/Properties/VectorSpace.agda (hunk 16 above)
Comment (capn-freako) [reply src/Algebra/Linear/Properties/VectorSpace.agda:184]: Changed as requested in next push.

File: src/Algebra/Linear/Bundles.agda (hunk 17 above)
Comment (capn-freako) [reply src/Algebra/Linear/Bundles.agda:46]: Fixed in next push.

File: CHANGELOG.md (hunk 18 above)
Comment (capn-freako) [reply CHANGELOG.md:1854]: Nope; restored in next push.

File: src/Algebra/Linear/Structures.agda [hunk 24]
```diff
@@ -0,0 +1,64 @@
...
+    : Set (suc (ℓm ⊔ ℓr ⊔ m ⊔ r))
+    where
+
+    open IsBasis isBasis
+
+    field
+      ∙-comm      : ∀ {a b}     → a ∙ b ≈ b ∙ a
+      ∙-distrib-+ : ∀ {a b c}   → a ∙ (b +ᴹ c)    ≈ (a ∙ b) + (a ∙ c)
+      ∙-comm-*ₗ   : ∀ {s} {a b} → a ∙ (s *ₗ b)    ≈ s * (a ∙ b)
+      ∙-comm-*ᵣ   : ∀ {s} {a b} → a ∙ (b *ᵣ s)    ≈ (a ∙ b) * s  -- Prove.
```
[the remark this answers is not in the document]
Comment (capn-freako) [reply src/Algebra/Linear/Structures.agda:58]: Did you mean, "remove the `Prove` _comment_"?

File: src/Function/Relation/Binary/Equality.agda (hunk 20 above)
[the remark this answers is not in the document]
Comment (capn-freako) [reply src/Function/Relation/Binary/Equality.agda:15]: Shoot! I think I actually need to keep `A` as a general purpose variable.
I'm getting the following w/ the new code:

```agda
66 foldr-cong : ∀ {f g : V → S → S} {d e : S} →
67              (∀ {y z} → y ≈ z → ∀ x → f x y ≈ g x z) → d ≈ e →
68             foldr f d ≗ foldr g e
69 foldr-cong f≈g d≈e []       = d≈e
70 foldr-cong f≈g d≈e (x ∷ xs) = f≈g (foldr-cong f≈g d≈e xs) x

```

(All code on line 68 highlighted in medium brown.)

```
/home/dbanas/prj/agda-stdlib/src/Algebra/Linear/Properties/VectorSpace.agda:68,14-23
V !=< List _A_210
when checking that the inferred type of an application
  List _A_210 → _B_212
matches the expected type
  Setoid.Carrier ≈ᴹ-setoid → Setoid.Carrier setoid
```

I'm guessing that if I fix this for `List` then it will just break again when I move to `Foldable Functor`.
What do you think?

I've temporarily added a new module: `Function.Relation.Binary.Equality2`, which contains the new code (i.e. - modified as per your request).
And it can be selected, via comment toggling, at these locations:

1. `src/Algebra/Linear/Properties/VectorSpace.agda: 39`
2. `src/Algebra/Module/Morphism/Bundles.agda: 50`

I think I'll need some help w/ this one if you want to push towards two module parameterization.

Thanks!

File: src/Algebra/Linear/Structures.agda (hunk 24 above)
[the remark this answers is not in the document]
Comment (MatthewDaggitt) [reply src/Algebra/Linear/Structures.agda:52]: Yes, sorry should have been more clear!

File: src/Algebra/Linear/Bundles.agda [hunk 25]
```diff
@@ -0,0 +1,56 @@
...
+  field
+    _∙_ : V → V → S
+    basisFor      : BasisFor      mod _∙_
+    isVectorSpace : IsVectorSpace mod _∙_
+
+  open BasisFor      basisFor      public
+  open IsVectorSpace isVectorSpace public
+
+  -- Linear maps from vectors to scalars.
+  V⊸S = LinearMap mod ⟨module⟩
```
Comment (MatthewDaggitt) [inline src/Algebra/Linear/Bundles.agda:45]: Could we add a type for `V⊸S`?

File: src/Algebra/Linear.agda [hunk 26]
```diff
@@ -0,0 +1,11 @@
...
+-- The Agda standard library
+--
+-- Definitions of linear algebra bundles
+------------------------------------------------------------------------
+
+{-# OPTIONS --without-K --safe #-}
+
+module Algebra.Linear where
+
+open import Algebra.Linear.Bundles public
```
Comment (MatthewDaggitt) [inline src/Algebra/Linear.agda:11]: Should add `Linear.Structures` here.

File: src/Algebra/Linear/Properties/VectorSpace.agda [hunk 27]
```diff
@@ -0,0 +1,191 @@
+------------------------------------------------------------------------
+-- The Agda standard library
+--
+-- Properties of linear algebraic structures.
```
Comment (MatthewDaggitt) [inline src/Algebra/Linear/Properties/VectorSpace.agda:4]: Should be "Properties of vector spaces"

File: src/Algebra/Linear/Structures.agda [hunk 28]
```diff
@@ -0,0 +1,58 @@
...
+  -- under some inner product.
+  record BasisFor (_∙_ : V → V → S) : Set (suc (ℓm ⊔ m ⊔ r)) where
+
+    -- Scale a vector according to some reduction function.
+    vscale : (V → S) → V → V
+    vscale f = uncurry _*ₗ_ ∘ < f , id >
+
+    -- Generate a vector from the basis, according to some reduction function.
+    vgen : (V → S) → List V → V
+    vgen f = foldr (_+ᴹ_ ∘ vscale f) 0ᴹ
```
Comment (MatthewDaggitt) [inline src/Algebra/Linear/Structures.agda:37]: Hmm the type of this function looks a bit weird as is, I assume the `List V` that it takes *is* the basis set declared below? Why not move the definition below the fields, and then pass `basisSet` to it explicitly?

File: src/Algebra/Linear/Properties/VectorSpace.agda [hunk 29]
```diff
@@ -0,0 +1,191 @@
...
+vgen-cong {f₁} {f₂} []       f₁≗f₂ = Setoid.reflexive ≈ᴹ-setoid Eq.refl
+vgen-cong {f₁} {f₂} (x ∷ xs) f₁≗f₂ = begin⟨ ≈ᴹ-setoid ⟩
+  f₁ x *ₗ x +ᴹ vgen f₁ xs ≈⟨ +ᴹ-congʳ (*ₗ-congʳ (f₁≗f₂ x)) ⟩
+  f₂ x *ₗ x +ᴹ vgen f₁ xs ≈⟨ +ᴹ-congˡ (vgen-cong xs f₁≗f₂) ⟩
+  f₂ x *ₗ x +ᴹ vgen f₂ xs ∎
+
+------------------------------------------------------------------------
+-- Some consequences of `VectorSpace` inner product properties.
+v∙g[x]+y-cong₂ : {g : V → V} {v x w : V} {y z : S} →
+                 Congruent _≈ᴹ_ _≈ᴹ_ g → x ≈ᴹ w → y ≈ z →
```
Comment (MatthewDaggitt) [inline src/Algebra/Linear/Properties/VectorSpace.agda:62]: Could the `Congruent` proof go before the `v x w y z` declarations? That allows the function to be partially applied more easily. Similar comment with several others below, e.g. `foldr-homo-∙`

File: src/Algebra/Linear/Properties/VectorSpace.agda [hunk 30]
```diff
@@ -0,0 +1,191 @@
...
+      ≈⟨ +-congˡ (foldr-homo g xs) ⟩
+    g x * f x + vred g xs
+      ∎
+    where
+    h = _+ᴹ_ ∘ vscale g
+
+  vSum : List V → V
+  vSum xs = foldr _+ᴹ_ 0ᴹ xs
+
+  fScale : V → V
```
Comment (MatthewDaggitt) [inline src/Algebra/Linear/Properties/VectorSpace.agda:132]: What does the `f` stand for in the names here? Again comments on these functions would be welcome!

File: src/Algebra/Linear/Properties/VectorSpace.agda [hunk 31]
```diff
@@ -0,0 +1,191 @@
...
+      ≈⟨ sym (foldr-homo (a ∙_) basisSet) ⟩
+    f (foldr (_+ᴹ_ ∘ (uncurry _*ₗ_) ∘ < (a ∙_) , id >) 0ᴹ basisSet)
+      ≈⟨ ⟦⟧-cong (Setoid.sym ≈ᴹ-setoid (basisComplete)) ⟩
+    f a ∎)
+    where
+    v′ = lmToVec lm
+
+  -- Inner product extensional equivalence.
+  x·z≈y·z⇒x≈y : ∀ {x y} → DoubleNegationElimination ℓm →
+                 ∃₂ (λ s z → ((s *ₗ (x +ᴹ -ᴹ y) ≈ᴹ z) × (f z ≉ 0#))) →
```
Comment (MatthewDaggitt) [inline src/Algebra/Linear/Properties/VectorSpace.agda:160]: Any reason for declaring this as a dependent pair and not just a standard quantification?

File: src/Algebra/Linear/Properties/VectorSpace.agda [hunk 32]
```diff
@@ -0,0 +1,191 @@
...
+    fx≈fy : f x ≈ f y
+    fx≈fy = begin⟨ setoid ⟩
+      f x   ≈⟨ f≈v∙ {x} ⟩
+      v′ ∙ x ≈⟨ ∙-comm ⟩
+      x ∙ v′ ≈⟨ x∙z≈y∙z ⟩
+      y ∙ v′ ≈⟨ ∙-comm ⟩
+      v′ ∙ y ≈⟨ sym (f≈v∙ {y}) ⟩
+      f y   ∎
+
+-- Isomorphism 1: (V ⊸ S) ↔ V
```
Comment (MatthewDaggitt) [inline src/Algebra/Linear/Properties/VectorSpace.agda:174]: Again, could you make this comment a little bit more verbose?

File: src/Algebra/Linear/Properties/VectorSpace.agda [hunk 33]
```diff
@@ -0,0 +1,191 @@
...
+  vSum : List V → V
+  vSum xs = foldr _+ᴹ_ 0ᴹ xs
+
+  fScale : V → V
+  fScale = vscale f
+
+  fGen : List V → V
+  fGen = vgen f
+
+  f≈v∙ : ∀ {a} → f a ≈ lmToVec lm ∙ a
```
Comment (MatthewDaggitt) [inline src/Algebra/Linear/Properties/VectorSpace.agda:138]: Could we try to come up with a more meaningful name for this proof?

File: src/Function/Relation/Binary/Equality.agda (hunk 19 above)
[the remark this answers is not in the document]
Comment (MatthewDaggitt) [reply src/Function/Relation/Binary/Equality.agda:28]: Hmm yes good point. We really want equality over `Function` bundles.... I'll give this some more thought and get back to you.

**Comment by Taneb** [comment]
I'm... uncomfortable with this definition of vector spaces. It's really not what literature means by "vector space", like, at all.  If anything I'd call this a free inner-product module, but that's not really a thing, and besides a definition of that ought to take into account complex conjugates somehow.

File: src/Algebra/Linear/Structures.agda (hunk 24 above)
[the remark this answers is not in the document]
Comment (capn-freako) [reply src/Algebra/Linear/Structures.agda:52]: No problem.

**==> Changed, as requested, in next push.**

File: src/Algebra/Linear/Bundles.agda [hunk 34]
```diff
@@ -0,0 +1,56 @@
...
+  constructor mkVS
+
+  open CommutativeRing ring renaming (Carrier  to S)   public
+  open Module          mod  renaming (Carrierᴹ to V)   public
+
+  infix 7 _∙_
+
+  field
+    _∙_ : V → V → S
+    basisFor      : BasisFor      mod _∙_
```
[the remark this answers is not in the document]
Comment (capn-freako) [reply src/Algebra/Linear/Bundles.agda:38]: Changed as requested in next push.

File: src/Algebra/Linear/Bundles.agda (hunk 25 above)
Comment (capn-freako) [reply src/Algebra/Linear/Bundles.agda:45]: Added in next push.

File: src/Algebra/Linear.agda (hunk 26 above)
Comment (capn-freako) [reply src/Algebra/Linear.agda:11]: Added in next push.

File: src/Algebra/Linear/Properties/VectorSpace.agda (hunk 27 above)
Comment (capn-freako) [reply src/Algebra/Linear/Properties/VectorSpace.agda:4]: Fixed in next push.

File: src/Algebra/Linear/Structures.agda (hunk 28 above)
Comment (capn-freako) [reply src/Algebra/Linear/Structures.agda:37]: Because the `basisComplete` field calls it.

File: src/Algebra/Linear/Properties/VectorSpace.agda (hunk 29 above)
Comment (capn-freako) [reply src/Algebra/Linear/Properties/VectorSpace.agda:62]: Changed as requested in next push.

File: src/Algebra/Linear/Properties/VectorSpace.agda (hunk 30 above)
Comment (capn-freako) [reply src/Algebra/Linear/Properties/VectorSpace.agda:132]: `f` is the linear function contained within the linear map.
I've added a comment to this effect.

I've also made a clean-up pass through this code:

- eliminating any unused code,
- narrowing the scope of helper functions, and
- adding comments about intent/function.

**==> All changes described above arriving with next push.**

File: src/Algebra/Linear/Properties/VectorSpace.agda (hunk 33 above)
Comment (capn-freako) [reply src/Algebra/Linear/Properties/VectorSpace.agda:138]: I've used a longer, more explicit alternative, in the next push.
Let me know what you think.

**Comment by capn-freako** [comment]
> I'm... uncomfortable with this definition of vector spaces. It's really not what literature means by "vector space", like, at all. If anything I'd call this a free inner-product module, but that's not really a thing, and besides a definition of that ought to take into account complex conjugates somehow.

Hi @Taneb ,

Thanks for voicing your concern here. :)

Is it _just_ the separation of the _basis set_ and _inner product_, which has evolved in the back and forth between Matthew and me, here, or is there something else that you feel is fundamentally wrong with my definition of _vector space_?

Thanks,
-db

**Comment by capn-freako** [comment]
Anyone know why the _Ubuntu build / test-stdlib (pull_reuest)_ test failed?

File: src/Algebra/Linear/Properties/VectorSpace.agda (hunk 31 above)
Comment (JacquesCarette) [reply src/Algebra/Linear/Properties/VectorSpace.agda]: The name of this property mentions `z` (so one thinks it's an input), but the output doesn't have the right 'shape' as expected from the name.

I would have expected the type to be
```agda
∀ {x y} → (∀ {z} → x · z ≈ y · z) → x ≈ y
```

**Comment by guilhermehas** [comment]
From Wikipedia (https://en.wikipedia.org/wiki/Vector_space), I think that Vector Space is defined over a Field and not from a Commutative Ring.

**Comment by MatthewDaggitt** [comment]
> Anyone know why the Ubuntu build / test-stdlib (pull_reuest) test failed?

Not your fault (https://github.com/agda/agda-stdlib/issues/1804)

> From Wikipedia (https://en.wikipedia.org/wiki/Vector_space), I think that Vector Space is defined over a Field and not from a Commutative Ring.

Thanks @Taneb and @guilhermehas for the heads up! I'd totally missed that. It's a good point. @capn-freako I think they're right that we should stick to the standard definition. May I ask where you go the current definition from?

**Comment by capn-freako** [comment]
> Thanks @Taneb and @guilhermehas for the heads up! I'd totally missed that. It's a good point. @capn-freako I think they're right that we should stick to the standard definition. May I ask where you go the current definition from?

Admittedly, I "cheated" when I didn't find `Field` available among the other standard algebraic definitions.
Shall I take a whack at defining `Field` and, then, redefining `VectorSpace` to use it, instead of `CommutativeRing`?
I think we'll need _division_ eventually, anyway, when working most generally w/ vector spaces, even abstractly.

**Comment by JacquesCarette** [comment]
You're likely to want to define R-module over a (commutative?) ring first. That's fully constructive. Vector Space over a Field is... hard.

**Comment by capn-freako** [comment]
> You're likely to want to define R-module over a (commutative?) ring first. That's fully constructive. Vector Space over a Field is... hard.

Thanks, Jacques! Have you been down that particular road before?

I like this concise summary of `Field` (from the _Wikipedia_ page):

> Even more summarized: a field is a [commutative ring](https://en.wikipedia.org/wiki/Commutative_ring) where 0 ≠ 1 and all nonzero elements are [invertible](https://en.wikipedia.org/wiki/Unit_(ring_theory)).

**Comment by capn-freako** [comment]
> You're likely to want to define R-module over a (commutative?) ring first. That's fully constructive. Vector Space over a Field is... hard.

Oh, shoot! The new multiplicative inverse function must be _partial_, because `0#` must be excluded from its domain.
Is that why you warned me thusly?

**Comment by capn-freako** [comment]
Hey guys, a question about something in `Algebra.Structures`:
In `IsRingWithoutOne`, the additive inverse is defined thusly:

```
+-isAbelianGroup : IsAbelianGroup + 0# -_
```

while in `IsNearring` it is defined:

```
+-inverse   : Inverse 0# _⁻¹ +
```

What is the significance of this difference?

**Comment by MatthewDaggitt** [comment]
> Oh, shoot! The new multiplicative inverse function must be partial, because 0# must be excluded from its domain.
Is that why you warned me thusly?

Yes we haven't quite worked out how we want to handle the partiality. See https://github.com/agda/agda-stdlib/issues/1175 for discussion.

**Comment by JacquesCarette** [comment]
> Have you been down that particular road before?

Not this exact one, but close enough to know that this way lies much pain.

> Oh, shoot! The new multiplicative inverse function must be partial, because 0# must be excluded from its domain.
Is that why you warned me thusly?

Yes!

Matthew also said:
> In general it's very difficult to come up with a consistent inheritance pattern and is an area of active research how to do it modularly (which we have definitely not achieved in the standard library!)

In my mind, the most general solution requires explicit morphisms between definitions (not just embeddings induced by same-name-same-thing) and a proper notion of pullback/pushout. Agda actually has many of the needed features already, but "closing the gap" still requires quite a lot of work.

**Comment by capn-freako** [comment]
Hey guys,

Please, ignore this next push.
And sorry to trigger your runners unnecessarily.

I need to get something posted in an easily referenced fashion, so it can be discussed in group today.

Thanks,
-db

**Comment by MatthewDaggitt** [comment]
@capn-freako I'm going to close this PR as I think the current approach needs some rethinking and probably some addition scaffolding first. Feel free to open a new PR if you revisit it later on and think you've fixed the problems!

**Comment by capn-freako** [comment]
Oh, snap! I was just putting the finishing touches on a next push, which I think addresses the concerns and is much more in line w/ the literature.
Any chance you could reopen this PR for one more round?

**Comment by MatthewDaggitt** [comment]
Sure!

**Comment by capn-freako** [comment]
Okay, guys, I think that last push is much more in line with the literature and addresses your previous concerns.
Please, take a look and let me know what you think.

Thanks!
-db

File: src/Algebra/Linear/Structures.agda [hunk 35]
```diff
@@ -0,0 +1,351 @@
...
+    vscale : (V → S) → V → V
+    vscale f = uncurry _*ₗ_ ∘ < f , id >
+
+    -- Accumulate a list of vectors, according to some reduction function.
+    vgen : (V → S) → List V → V
+    vgen f = foldr (_+ᴹ_ ∘ vscale f) 0ᴹ
+
+  -- An _Inner Product Space_ is a vector space augmented with a function
+  -- that takes two vectors and returns a scalar.
+  record IsInnerProductSpace (f : V → V → S) : Set (suc (ℓm ⊔ ℓr ⊔ m ⊔ r)) where
```
Comment (Taneb) [inline src/Algebra/Linear/Structures.agda:106]: There really ought to be _some_ laws here.

**Review by Taneb — COMMENTED** [review]
On the whole I'm really not happy with the approach taken here. We certainly shouldn't merge this before the imminent release of 2.0, and I don't think this approach will lead to something merits inclusion in the standard library.

I welcome @capn-freako to adapt this into a standalone library and continue developing it.

I suggest for the standard library that we work towards linear algebra in small, well-reasoned chunks building on what we've already implemented. I have in my head a rough roadmap for this (and other things!) that I've been working on for a good while.

**Comment by MatthewDaggitt** [comment]
Given @Taneb's feedback and the lack of reply I'm going to close this again for now.
